US05256780
To a solution of 2-[3-methyl-1-[benzenesulfonyl)indol-2-yl]ethanol (7.1 g) and triethylamine (2.96 g) in dichloromethane (71 ml) was added dropwise methanesulfonyl chloride (2.84 g) in dichloromethane (57 ml) at -40° C. After being stirred at the same temperature for 30 minutes, the reaction mixture was diluted with chilled water, and neutralized with 1N-hydrochloric acid. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and evaporated in vacuo to give 2-[2-(methanesulfonyloxy)ethyl]-3-methyl-1-(benzenesulfonyl)indole (8.8 g) as amorphous powder.

reactant | 2-[3-methyl-1-[benzenesulfonyl)indol-2-yl]ethanol | 7.1 g | CC1=C(N(C2=CC=CC=C12)S(=O)(=O)C1=CC=CC=C1)CCO | C17H17NO3S
reactant | triethylamine | 2.96 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.84 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 71 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 57 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2-[2-(methanesulfonyloxy)ethyl]-3-methyl-1-(benzenesulfonyl)indole | 8.8 g | CS(=O)(=O)OCCC=1N(C2=CC=CC=C2C1C)S(=O)(=O)C1=CC=CC=C1 | C18H19NO5S2
